US04319913
Under a static nitrogen atmosphere at 0° C., a solution of n-butyllithium (8.0 g, 0.125 mol) in hexane was added to a solution of tetramethylethylenediamine (14.3 g, 0.123 mol) in 60 ml. of anhydrous cyclohexane with constant stirring. While maintaining the temperature at 0° C., a solution of dibenzylamine (11.8 g, 0.06 mol) in 30 ml. of anhydrous cyclohexane was added to the reaction mixture to produce a suspension containing a dilithio compound. This suspension was stirred for 2 hours at 26° C. and then cooled to -76° C. using a solid carbon dioxide-acetone bath. A solution of phenylphosphonic dichloride (12.5 g, 0.064 mol) in 30 ml. of anhydrous cyclohexane was rapidly added to the suspension causing the temperature of the reaction to increase to 0° C. The reaction mixture was allowed to cool to -76° C., after which time the reaction mixture was stirred for 0.25 hours. The solid carbon dioxide-acetone bath was then removed and the reaction mixture was stirred for an additional 2 hours at 26° C. The reaction mixture was cooled to 0° C. and then quenched with the rapid addition of 12 ml. of acetic acid. The cyclohexane was removed on a rotary evaporator, and the resulting residue partitioned between methylene chloride and water. The layers were separated and the methylene chloride layer was dried and concentrated in vacuo to yield an orange glass. The orange glass was distilled at 220° C. and 0.25 torr and the resulting solid residue was chromatographically separated on a silica gel column using ethyl acetate as the eluant. Fractions containing the benzazaphosphole were combined and concentrated in vacuo to produce a crude product. The crude product was crystallized from diethyl ether and petroleum ether to yield 1-phenyl-2-(phenylmethyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (6.15 g, 32% yield) as a white solid having a melting point of 99°-101° C. and the following analysis:

reactant | n-butyllithium | 0.125 mol, 8.0 g | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.123 mol, 14.3 g | CN(CCN(C)C)C | C6H16N2
reactant | dibenzylamine | 0.06 mol, 11.8 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | phenylphosphonic dichloride | 0.064 mol, 12.5 g | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
solvent | hexane | CCCCCC | C6H14
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-phenyl-2-(phenylmethyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 6.15 g, 32% yield | C1(=CC=CC=C1)P1(N(CC2=C1C=CC=C2)CC2=CC=CC=C2)=O | C20H18NOP
